US05972900
Preparation Of Mannose-Terminal Glycoprotein Carrier:
Synthetic glycoprotein carriers were constructed in which poly(L-lysine), average chain length 100 (Mr 20,000 Da), was glycosylated using a-D-mannopyranosyl phenylisothiocyanate dissolved in N,N-dimethylformamide. The solution was adjusted to pH 9.5 by the addition of 1 M Sodium carbonate, pH 9.5. Shielded from light and incubated for 16 hours at 22° C., the solution was dialyzed against 5 mM Sodium chloride for two days. Approximately 0.8 to 1.0% of the amine side chains in the polylysine are glycosylated, as determined by absorbance spectroscopy at 250 nm. As a control, an alternative glycoprotein carrier was synthesized by substituting a-D-mannopyranosyl phenylisothiocyanate with a-D-galactopyranosyl phenylisothiocyanate.

reactant | Sodium carbonate | 1 M | C([O-])([O-])=O.[Na+].[Na+]
reactant | a-D-galactopyranosyl phenylisothiocyanate | C1=CC(=CC=C1N=C=S)OC2C(C(C(C(O2)CO)O)O)O | C13H15NO6S
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | Mannose | O=C[C@@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
